US04261996
4,9-Dihydro-5-hydroxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid.
From 4,9-dihydro-5-methoxy-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carboxylic acid (1.04 g), 48% hydrobromic acid (25 ml) and acetic acid (25 ml), following the procedure of Example 3, there is obtained the desired product (0.75 g) as the quarter hydrate. mp 326°-330° C.

reactant | 4,9-dihydro-5-methoxy-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carboxylic acid | 1.04 g | COC1=CC=CC=2C(N3C(NC12)=CC(=N3)C(=O)O)=O | C12H9N3O4
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4,9-Dihydro-5-hydroxy-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | 0.75 g | OC1=CC=CC=2C(N3C(NC12)=CC(=N3)C(=O)O)=O | C11H7N3O4
